Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Vytorin ___
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
Stapled scalp laceration

 
History of Present Illness:
Pt is a ___ y.o male with h.o HL, OSA, melanoma who took ___ 
"sleeping pills" ___ night in an attempt to sleep. Pt reports 
history of recent stress and anxiety at work and has been 
feeling overwhelmed per documentation. Pt also with untreated 
OSA. Pt's wife reportedly came home from work to find her 
husband had blood "all over the place". Some documentation 
reports pt found at bottom of stairs and pt states he "thinks he 
went back to bed". Pt apparently confused. He was taken to the 
ED.
Of note, pt minimizing in regards to what happened. He reports 
taking the sleeping medication ___ night in an attempt to 
sleep. He reports that his dog wakes him up frequently to 
urinate. He is unclear if he had any LOC but believes that he 
just felt down the stairs as they were "slippery". He denies any 
other ingestions or attempting to harm himself. He denies any 
headache, dizziness, paresthesias, weakness, visual changes, CP, 
palpitations before or after the event or currently. In 
addition, he denies recent fever, chills, cough, abdominal pain, 
n/v/d/c/melena/brbpr/dysuria/hematuria. He denies taking any 
NSAIDs or any other ingestions of substances. He reports recent 
intentional weight loss of 22lbs and has been drinking and 
eating less. He denies any changes to urination in terms of 
color, outpt etc.    

In the ED, he was found to be tachycardic, dry mucous membranes 
and concern for anticholinergic syndrome. Toxicology was 
consulted who recommended serial EKG's and benzodiazepines for 
agitation. Psychiatry also evaluated the patient and stated that 
he did not meet ___ criteria and he was ok for discharge 
with PCP ___. As pt and family reported that pt was not 
depression or suicidal but had taken medications in order to 
sleep.  Pt admitted for ___. His scalp laceration was repaired. 
.
Pt was given 
last vitals HR 85 BP 115/75 RR 18 sat 98% on RA 
.
other 10 pt ROS Reviewed and otherwise negative. 
 
Past Medical History:
Pt denies any medical history-but per OMR 
anemia
HL
LBP
OSA
melanoma
 
Social History:
___
Family History:
CAD mother 
 
Physical ___
GEN: well appearing, NAD, tired, slightly tremulous
HEENT: scalp laceration, with staples, EOMI anicteric, dry MM
neck: supple
chest: b/l ae no w/c/r
heart: s1s2 rr no m/r/g
abd: +bs, soft, NT, ND, no guarding or rebound
ext: no c/c/e 2+pulses
neuro: face symmetric, speech fluent, AAOx3, CN ___ intact, 
motor ___ x 4, sensation intact to LT 
psych: calm, cooperative, flat affect  

Discharge
T 98.3 107/71 89 20 100%RA
UOP 950
GEN: Lying comfortably in bed
HEENT: Sutured head laceration with staples, crusted blood, 
pupils symmetric
HEART: RRR, no murmurs
LUNGS: CTA bilaterally, good air movement
ABD: Soft, nontneder
GU: No foley
EXT: Bruises bilateral knees with no lacertaion
NEURO: Alert and oriented x3, fluent speech
PSYCH: Flattened affect, appropriate mood

 
Pertinent Results:
___ 09:00PM URINE  HOURS-RANDOM
___ 09:00PM URINE  HOURS-RANDOM
___ 09:00PM URINE  GR HOLD-HOLD
___ 09:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:00PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 09:00PM URINE  RBC-3* WBC-5 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 09:00PM URINE  MUCOUS-RARE
___ 05:45PM   LACTATE-3.2*
___ 05:42PM   GLUCOSE-96 UREA N-26* CREAT-1.7* SODIUM-140 
POTASSIUM-4.5 CHLORIDE-100 TOTAL CO2-18* ANION GAP-27*
___ 05:42PM   estGFR-Using this
___ 05:42PM   ASA-NEG ACETMNPHN-NEG bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ 05:42PM   WBC-17.3* RBC-4.76 HGB-15.0 HCT-43.6 MCV-92 
MCH-31.5 MCHC-34.4 RDW-12.9 RDWSD-41.7
___ 05:42PM   NEUTS-82.4* LYMPHS-6.4* MONOS-10.3 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-14.27* AbsLymp-1.11* AbsMono-1.78* 
AbsEos-0.00* AbsBaso-0.04
___ 05:42PM   PLT COUNT-197
___ 04:25PM   WBC-18.2* RBC-4.61 HGB-14.5 HCT-42.5 MCV-92 
MCH-31.5 MCHC-34.1 RDW-13.1 RDWSD-42.6
___ 04:25PM   PLT COUNT-229
.
Imaging:
CXR:
IMPRESSION:  
No acute findings. 
.
CT cspine:
IMPRESSION:  
No fracture or malalignment.  Mild degenerative disease. 
.
CT head:
IMPRESSION:  
No acute intracranial abnormality. 
.
Knee:
IMPRESSION:  
No acute fracture or dislocation.  Prepatellar soft tissue 
swelling, left 
greater than right.
.
EKGs reviewed. ___ improving.  

 
Brief Hospital Course:
Mr ___ is a ___ who presented with fall and rhabdo in 
the context of anticholinergic toxidrome.

# Anticholinergic overdose: he took too many sleeping pills in 
the setting of frustration, stress, and poorly controlled 
insomnia. No features of intention of self injury, confirmed 
with wife. ___ normalized, sensorium clear. Psych has cleared 
him to go home

# Rhabdomyelisis / Transaminitis: Likely due to being down for 
prolonged period, wife confirms that when she came home 3PM he 
had congealed blood. CK max 47,000. Cr appears to have peaked at 
2.7; now both are trending down nicely. He was hydrated with IVF 
during admission and advised to continue to drink plenty of 
fluids upon discharge. Has close PCP ___ for lab check. 

# Depression with concern for self injurious behavior.
According to his wife, his current slightly restricted affect is 
definitely his baseline. He has been very stressed at work with 
no features of trouble with impulse control. He has manifested 
features of vegetative symptoms (psychomotor slowing, weight 
loss and decreased appetite). Has close PCP ___. Per discussion 
with family, team, PCP, ___ with small number of clonazepam 
to bridge to PCP/mental health follow up. Psych cleared to ___ 
home since patient has insight and confident no attempt at self 
harm

# Fall: sutures in place, will need follow up to remove staples 
in 7 days per surgery. Emailed with PCP who will do this. 

CODE- full

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rosuvastatin Calcium 40 mg PO QPM 
2. Fish Oil (Omega 3) 1000 mg PO BID 
3. Vitamin D 1000 UNIT PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. diphenhydrAMINE HCl 25 mg oral QHS:PRN insomnia 

 
Discharge Medications:
1. Fish Oil (Omega 3) 1000 mg PO BID 
2. Rosuvastatin Calcium 40 mg PO QPM 
3. Vitamin D 1000 UNIT PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. ClonazePAM 0.5 mg PO QHS:PRN insomnia  Duration: 7 Days 
RX *clonazepam 0.5 mg 1 tablet(s) by mouth at bedtime Disp #*7 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Anticholinergic toxicity
Fall
Rhabdomylinosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure participating in your care at ___. You 
were admitted after a fall and episode of confusion related to 
taking too many sleeping pills. You had a scalp laceration that 
was stapled. You had some muscle breakdown from lying down for 
so long, and this injured your kidneys. This is now improving 
 
Followup Instructions:
___